US07807686B2
Chloral hydrate (11.5 g, 70 mmol) and anhydrous sodium sulfate (60 g, 422 mmol) were added to vigorously stirred water (300 mL). A slurry prepared by mixing hydroxylamine hydrochloride (23.0 g, 331 mmol) and 4-methoxy-3-methylphenylamine (10.0 g, 73 mmol) with aqueous hydrochloric acid (2.4 M, 250 mL) was added to the above mixture. The resulting mixture was refluxed for 20 min and then allowed to stand at room temperature for 16 h. A precipitate formed and was collected by filtration. The solid was washed with water and dried to yield 2-hydroxyimino-N-(4-methoxy-3-methylphenyl)acetamide (6.7 g, 32 mmol, 44%)

reactant | Chloral hydrate | 70 mmol, 11.5 g | ClC(C(O)O)(Cl)Cl | C2H3Cl3O2
reactant | sodium sulfate | 422 mmol, 60 g | S(=O)(=O)([O-])[O-].[Na+].[Na+]
reactant | hydroxylamine hydrochloride | 331 mmol, 23.0 g | Cl.NO
reactant | 4-methoxy-3-methylphenylamine | 73 mmol, 10.0 g | COC1=C(C=C(C=C1)N)C | C8H11NO
reactant | hydrochloric acid | 2.4 M, 250 mL | Cl | ClH
solvent | water | 300 mL | O | H2O
product | 2-hydroxyimino-N-(4-methoxy-3-methylphenyl)acetamide | 32 mmol, 6.7 g, 44% | ON=CC(=O)NC1=CC(=C(C=C1)OC)C | C10H12N2O3
